datasets/10k__Tet_Int.csv
SMILES Labelled
"[H][O+:10](C(C9=CC=CC=C9)C([H])[S]1)[C:20]1([O:21]C)[S][H].[Cl-]>>[Cl-].[H][O:10]C(C9=CC=CC=C9)C([H])[S][C:20]([S][H])=[O+:21]C 21=20;20,10=10"
"C6=CC=CC=C6[NH+:21]=[C:20]2[O][CH]([H])[CH]([H])C(C)[NH]2.[H][O:10][H].[Cl-]>>[Cl-].[H][O+:10]([H])[C:20]1([NH:21]C6=CC=CC=C6)[O][CH]([H])C([H])[CH](C)[NH]1 10=20;20,21=21"
"C1(C(O[C:20]([O-:10])([O:21]C1CC)O[H])CC)CC>>C(C([O-:21])CC)(C(O[C:20](=[O:10])O[H])CC)CC 10=20;20,21=21"
"CCCCCCN([C:20](=[O:10])O[H])CC.[O-:21]CCCCCC>>CCCCCCN([C:20]([O-:10])(O[H])[O:21]CCCCCC)CC 21=20;20,10=10"
"C(C([O-:21])CCCCCC)(C(O[C:20](=[O:10])OCCCCCC)[H])CCCCCC>>C1(C(O[C:20]([O-:10])([O:21]C1CCCCCC)OCCCCCC)[H])CCCCCC 21=20;20,10=10"
"C9=CC=CC=C9[O+:10]([H])[C:20]1([O:21][H])[O][CH]([H])C([H])[CH](CC)[S]1.[Cl-]>>[Cl-].[H][O+:21]=[C:20]2[O][CH]([H])[CH]([H])C(CC)[S]2.C9=CC=CC=C9[O:10][H] 21=20;20,10=10"
"C9=CC=CC=C9[S+:10]([H])[C:20]1([O:21][H])[O][CH](C7=CC=CC=C7)C([H])[CH](C8=CC=CC=C8)[S]1.[Cl-]>>[Cl-].[H][O+:21]=[C:20]2[O][CH](C7=CC=CC=C7)[CH]([H])C(C8=CC=CC=C8)[S]2.C9=CC=CC=C9[S:10][H] 21=20;20,10=10"
"[O-:21][C:20]1(OCC)C(O)C(C)C([H])C([H])[O+:10]1([K])>>[O:10]([K])C([H])C([H])C(C)C(O)[C:20](OCC)=[O:21] 21=20;20,10=10"
"CN([C:20]1(OC(C(C([O:21]1)C)CC)C1=CC=CC=C1)[O-:10])CC>>CN([C:20](=[O:10])OC(C(C([O-:21])C)CC)C1=CC=CC=C1)CC 10=20;20,21=21"
"[H][O:10]C([H])C(C)C(CC)[NH][C:20]([O]CC)=[NH+:21]C6=CC=CC=C6.[Cl-]>>[Cl-].[H][O+:10](C([H])C(C)C(CC)[NH]1)[C:20]1([NH:21]C6=CC=CC=C6)[O]CC 10=20;20,21=21"
"[Li][O+:21]([C:20]([O-:10])(OCCCCCC)OC)[H]>>[Li][O:21][H].[C:20](=[O:10])(OCCCCCC)OC 10=20;20,21=21"
"CC[NH+:21]=[C:20]2[NH][CH](C)[CH](C)C(C)[O]2.[H][NH:10][H].[Cl-]>>[Cl-].[H][NH+:10]([H])[C:20]1([NH:21]CC)[NH][CH](C)C(C)[CH](C)[O]1 10=20;20,21=21"
"C1(C(O[C:20]([O-:10])([O:21]C1[H])OC1=CC=CC=C1)[H])[H]>>C(C([O-:21])[H])(C(O[C:20](=[O:10])OC1=CC=CC=C1)[H])[H] 10=20;20,21=21"
"[H]N([C:20](=[O:10])OC1=CC=CC=C1)[H].[O-:21][H]>>[H]N([C:20]([O-:10])(OC1=CC=CC=C1)[O:21][H])[H] 21=20;20,10=10"
"C[O+:21]=[C:20]2[S][CH](C7=CC=CC=C7)[CH](C)C(C)[S]2.C9=CC=CC=C9[S:10][H].[Cl-]>>[Cl-].C9=CC=CC=C9[S+:10]([H])[C:20]1([O:21]C)[S][CH](C7=CC=CC=C7)C(C)[CH](C)[S]1 10=20;20,21=21"
"[H][NH+:10]([H])[C:20]1([NH:21]C)[O][CH](C7=CC=CC=C7)C([H])[CH](C)[NH]1.[Cl-]>>[Cl-].C[NH+:21]=[C:20]2[O][CH](C7=CC=CC=C7)[CH]([H])C(C)[NH]2.[H][NH:10][H] 21=20;20,10=10"
"CN([C:20]1(OC(C(C([O:21]1)C)CCCCCC)C)[O-:10])CC>>CN([C:20](=[O:10])OC(C(C([O-:21])C)CCCCCC)C)CC 10=20;20,21=21"
"CC[O+:10]([H])[C:20]1([O:21]C)[O][CH]([H])C([H])[CH](CC)[O]1.[Cl-]>>[Cl-].C[O+:21]=[C:20]2[O][CH]([H])[CH]([H])C(CC)[O]2.CC[O:10][H] 21=20;20,10=10"
"CC[NH+:10]([H])[C:20]1([NH:21]CC)[NH]C(C7=CC=CC=C7)C(C8=CC=CC=C8)[O]1.[Cl-]>>[Cl-].CC[NH+:21]=[C:20]2[NH]C(C7=CC=CC=C7)C(C8=CC=CC=C8)[O]2.CC[NH:10][H] 21=20;20,10=10"
"[H][O+:10](C(C9=CC=CC=C9)C(C)[O]1)[C:20]1([NH:21]C6=CC=CC=C6)[NH]C7=CC=CC=C7.[Cl-]>>[Cl-].[H][O:10]C(C9=CC=CC=C9)C(C)[O][C:20]([NH]C7=CC=CC=C7)=[NH+:21]C6=CC=CC=C6 21=20;20,10=10"
"CCC1C(C(O[C:20](N1C)([O-:10])[Cl:21])C1=CC=CC=C1)CCCCCC>>CCC1C(C(O[C:20](=[O:10])N1C)C1=CC=CC=C1)CCCCCC.[Cl-:21] 10=20;20,21=21"
"C[NH+:10]([H])[C:20]1([NH:21]C6=CC=CC=C6)[O]C(C7=CC=CC=C7)C(C8=CC=CC=C8)[NH]1.[Cl-]>>[Cl-].C6=CC=CC=C6[NH+:21]=[C:20]2[O]C(C7=CC=CC=C7)C(C8=CC=CC=C8)[NH]2.C[NH:10][H] 21=20;20,10=10"
"[H][S:10][H].C[O+:21]=[C:20]([O]C8=CC=CC=C8)[S]CC.[Cl-]>>[Cl-].[H][S+:10]([H])[C:20]([O:21]C)([O]C8=CC=CC=C8)[S]CC 10=20;20,21=21"
"[H][NH:10]C(C9=CC=CC=C9)C(C)C(C)[NH][C:20]([O]C7=CC=CC=C7)=[NH+:21][H].[Cl-]>>[Cl-].[H][NH+:10](C(C9=CC=CC=C9)C(C)C(C)[NH]1)[C:20]1([NH:21][H])[O]C7=CC=CC=C7 10=20;20,21=21"
"[O:10]([K])C(C)C(C)C([C:20](OCC)=[O:21])[H]>>[O-:21][C:20]1(OCC)[O+:10]([K])C(C)C(C)C1[H] 10=20;20,21=21"
"[H]C1C(C(O[C:20](N1C1=CC=CC=C1)([O-:10])[O:21][H])[H])[H]>>[H]C1C(C(O[C:20](=[O:10])N1C1=CC=CC=C1)[H])[H].[O-:21][H] 10=20;20,21=21"
"C9=CC=CC=C9[O+:10]([H])[C:20]1([NH:21]CC)[O][CH]([H])C([H])[CH](C8=CC=CC=C8)[NH]1.[Cl-]>>[Cl-].CC[NH+:21]=[C:20]2[O][CH]([H])[CH]([H])C(C8=CC=CC=C8)[NH]2.C9=CC=CC=C9[O:10][H] 21=20;20,10=10"
"C[O+:21]=[C:20]2[S]C([H])C(CC)[O]2.C[S:10][H].[Cl-]>>[Cl-].C[S+:10]([H])[C:20]1([O:21]C)[S]C([H])C(CC)[O]1 10=20;20,21=21"
"C[O+:21]=[C:20]2[O][CH](C7=CC=CC=C7)[CH](C)C([H])[S]2.CC[O:10][H].[Cl-]>>[Cl-].CC[O+:10]([H])[C:20]1([O:21]C)[O][CH](C7=CC=CC=C7)C(C)[CH]([H])[S]1 10=20;20,21=21"
"[OH:21][C:20]2(C)C(C([H])C3=C([NH+:10]2(C))C=CC=C3)[H]>>[NH:10](C)C(C=CC=C1)=C1C([H])C([C:20](C)=[OH+:21])[H] 21=20;20,10=10"
"[H][O+:10](C(C)C(C)C(CC)[O]1)[C:20]1([O:21][H])[S]C.[Cl-]>>[Cl-].[H][O:10]C(C)C(C)C(CC)[O][C:20]([S]C)=[O+:21][H] 21=20;20,10=10"
"[H][NH:10]C(C9=CC=CC=C9)C(C)C([H])[O][C:20]([NH][H])=[NH+:21]C6=CC=CC=C6.[Cl-]>>[Cl-].[H][NH+:10](C(C9=CC=CC=C9)C(C)C([H])[O]1)[C:20]1([NH:21]C6=CC=CC=C6)[NH][H] 10=20;20,21=21"
"C6=CC=CC=C6[NH+:21]=[C:20]2[NH]C(C7=CC=CC=C7)C(CC)[NH]2.[H][O:10][H].[Cl-]>>[Cl-].[H][O+:10]([H])[C:20]1([NH:21]C6=CC=CC=C6)[NH]C(C7=CC=CC=C7)C(CC)[NH]1 10=20;20,21=21"
"C[NH+:10]([H])[C:20]([NH:21]C6=CC=CC=C6)([O]C)[O]CC.[Cl-]>>[Cl-].C[NH:10][H].C6=CC=CC=C6[NH+:21]=[C:20]([O]C)[O]CC 21=20;20,10=10"
